US07105544B2
Benzyl 3-(1-{3-[(Diphenylacetyl)Amino]Propyl}-4-Piperidinyl)Phenylcarbamate
Example 140 was prepared from diphenylacetyl chloride and benzyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate according to the procedures described in Scheme 8: ESMS m/e: 562.5 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | benzyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OCC1=CC=CC=C1)=O | C22H29N3O2
product | Benzyl 3-(1-{3-[(Diphenylacetyl)Amino]Propyl}-4-Piperidinyl)Phenylcarbamate | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C36H39N3O3
